US07572921B2
{2-[[1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-amino]-ethyl}-carbamic acid tert-butyl ester, (see Example 6) (455 mg, 0.899 mmol) was dissolved in MeOH (7 mL) and treated with 4N HCl/ether (2 mL). The solution was stirred at ambient temperature for 4 h. then heated to 40° C. for 3 h. The solvent was evaporated in vacuo providing N1-[1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylmethyl]-N1-(3-fluoro-benzyl)-ethane-1,2-diamine (341 mg, 93%). ESI MS m/z 407 [C20H21Cl2FN4+H]+.

reactant | {2-[[1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-amino]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN(CC1=CC(=CC=C1)F)CC=1N(C=CN1)CC1=CC(=CC(=C1)Cl)Cl)=O | C25H29Cl2FN4O2
reactant | HCl ether | 4N, 2 mL | Cl.CCOCC
solvent | MeOH | 7 mL | CO | CH4O
product | N1-[1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylmethyl]-N1-(3-fluoro-benzyl)-ethane-1,2-diamine | 341 mg, 93% | ClC=1C=C(CN2C(=NC=C2)CN(CCN)CC2=CC(=CC=C2)F)C=C(C1)Cl | C20H21Cl2FN4
